US09388189B2
a) N-(3,5-Dimethoxyphenyl)methanesulfonamide
3,5-Dimethoxyaniline (1 g mg, 6.53 mmol) was dissolved in pyridine (48 ml) and was treated with methanesulfonyl chloride (0.56 ml, 7.18 mmol). The reaction mixture was stirred at room temperature overnight. Methanesulfonyl chloride (0.28 ml, 3.59 mmol) was added and the mixture was stirred at room temperature overnight. The solvent was removed to give 1.7 mg (100% yield) of the title compound as a dark oil. Purity 89%.

reactant | 3,5-Dimethoxyaniline | 6.53 mmol, 1 g | COC=1C=C(N)C=C(C1)OC | C8H11NO2
reactant | methanesulfonyl chloride | 7.18 mmol, 0.56 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | Methanesulfonyl chloride | 3.59 mmol, 0.28 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 48 ml | N1=CC=CC=C1 | C5H5N
product | N-(3,5-Dimethoxyphenyl)methanesulfonamide | 1.7 mg, 100% yield | COC=1C=C(C=C(C1)OC)NS(=O)(=O)C | C9H13NO4S
